US04312874
n-Butyl magnesium bromide (2 M solution in diethyl ether; 1 ml; 2 mM) was added to a suspension of copper I iodide (0.038 gm; 0.2 mM) in dry tetrahydrofuran (50 ml) at -78° C. under an aron atmosphere. The suspension was stirred at this temperature for a further fifteen minutes and then the protected α,β-unsaturated aldehyde was added as a solution in dry tetrahydrofuran (10 ml). The reaction mixture was stirred at -78° C. for fifteen minutes, 0° C. for one hour and room temperature for three days, under an argon atmosphere. The reaction was quenched by the addition of excess saturated ammonium chloride solution. The resulting solution was extracted with ethyl acetate and the organic layer washed with water, saturated sodium chloride solution and dried over anhydrous magnesium sulphate. Removal of the solvent at reduced pressure yielded a pale yellow oil, which was dissolved in dry dichloromethane (20 ml). Powdered sodium acetate (0.110 gm) was added to the solution; followed by pyridinium chlorochromate (0.263 gm; 1.22 mM). The suspension was stirred at room temperature for one hour and then triturated with dry diethyl ether (50 ml). The resulting black suspension was filtered through a pad of florasil, washing several times with ether. The filtrate was evaporated to dryness at reduced pressure and the residual oil partitioned between ethyl acetate and water. The organic layer was washed with sodium bicarbonate solution, sodium chloride solution, dried over magnesium sulphate and the solvent removed at reduced pressure to afford a pale yellow oil, which was redissolved in 1,4-dioxan/water (4:1; 5 ml). 1 N Hydrochloric acid (two drops) was added and the solution shaken at room temperature for three minutes. Excess sodium bicarbonate solution was added, the aqueous solution saturated with sodium chloride and the product extracted with ethyl acetate. The organic layer was washed with sodium chloride solution, dried over magnesium sulphate and the solvent evaporated at reduced pressure to yield the crude α,β-unsaturated n-butyl ketone as a yellow oil (0.110 gm). The product was purified by silica gel column chromatography (Type 60; 3 gm). Elution with 2% methanol/chloroform afforded the pure ketone as a colourless oil (0.027 gm, 12%), λ max (EtOH) 239 nm (εm 9.800); ν max (CHBr3) 3400, 1680, 1615 cm-1 ; δ H (CDCl3) 6.12 (1H, s, CH=CC), 2.42 (t, COCH2), 2.15 (3H, s, CH3 -15), 1.5-1.1 (10H, m, +d, CH3 -14+methylene protons), 0.93 (6 H, broad d, CH3 -17+butyl-CH3); δC (CDCl3), 201.7, 155.0, 125.2, 75.1, 71.3, 70.4, 69.0, 65.5, 61.3, 55.6, 44.2, 43.2, 42.8, 39.6, 31.7, 26.4, 22.4, 20.8, 19.6, 13.9, 12.7; m/e 384.2487 (2%, M+, C21H36O6 requires 384.2464), 366 (2%), 348 (3%), 244 (30%), 227 (55%), 209 (20%), 152 (65%), 85 (100%).

reactant | n-Butyl magnesium bromide | 2 M, 1 ml | C(CCC)[Mg]Br
reactant | iodide | 0.2 mM, 0.038 gm | [I-]
reactant | sodium acetate | 0.110 gm | C(C)(=O)[O-].[Na+]
reactant | pyridinium chlorochromate | 1.22 mM, 0.263 gm | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxan water | 5 ml | O1CCOCC1.O
catalyst | Hydrochloric acid | 1 N, two drops | Cl | ClH
catalyst | copper | [Cu] | Cu
product | n-butyl ketone | 0.110 gm | C(CCC)C(=O)CCCC | C9H18O
